US07579464B2
Tetrabutylammonium bromide (0.82 g), potassium hydroxide (1.7 g) and p-methoxybenzylchloride (4.3 g), in that order, were added to a suspension of 5H,7H-dibenzo[b,d]azepin-6-one (5.63 g) in THF (112.5 mL). The reaction mixture was stirred 3 hours at room temperature. Dichloromethane (250 mL) and half-saturated aqueous NaCl (1500 mL) were added. The phases were separated, the organic phase was washed with half-saturated aqueous NaCl (1000 mL) and the aqueous layers were extracted with dichloromethane (150 mL) three times. The combined organic layers were dried (MgSO4), concentrated under reduced pressure and dried under high vacuum affording 5-(4-methoxy-benzyl)-5H,7H-dibenzo[b,d]azepin-6-one (9.5 g, quant.) as a brown oil, which was used in the next step without further purification.

reactant | potassium hydroxide | 1.7 g | [OH-].[K+]
reactant | p-methoxybenzylchloride | 4.3 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | 5H,7H-dibenzo[b,d]azepin-6-one | 5.63 g | C1=CC=CC=2NC(CC3=C(C21)C=CC=C3)=O | C14H11NO
reactant | NaCl | 1500 mL | [Na+].[Cl-]
catalyst | Tetrabutylammonium bromide | 0.82 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 112.5 mL | C1CCOC1 | C4H8O
solvent | Dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 5-(4-methoxy-benzyl)-5H,7H-dibenzo[b,d]azepin-6-one | 9.5 g | COC1=CC=C(CN2C3=C(C4=C(CC2=O)C=CC=C4)C=CC=C3)C=C1 | C22H19NO2
